US04626538
[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]ethylcarbamic acid, ethyl ester
A 2.0 g portion of [3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]ethylcarbamic acid, ethyl ester was reacted with 1.08 g of 3-aminopyrazole-4-carbonitrile as described in Example 13, giving 2.52 g of the desired product, mp 133°-135° C.

reactant | [3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]ethylcarbamic acid, ethyl ester | CN(C=CC(=O)C=1C=C(C=CC1)CCNC(OCC)=O)C | C16H22N2O3
reactant | 3-aminopyrazole-4-carbonitrile | 1.08 g | NC1=NNC=C1C#N | C4H4N4
product | [3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]ethylcarbamic acid, ethyl ester | 2.52 g | C(#N)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)CCNC(OCC)=O | C18H17N5O2
